US05804601
7-(1-Amino-2-naphthyl)heptanohydroxamic acid
The methoxymethyl 7-(1-amino-2-naphthyl)heptanoate (0.3 g) was added to 1M hydroxylamine/methanol (2.85 ml) and the mixture was stirred at room temperature for 1.5 hours. This reaction mixture was poured in saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated to dryness, and the residue was recrystallized from hexane-ether to provide the title compound (0.116 g).

reactant | methoxymethyl 7-(1-amino-2-naphthyl)heptanoate | 0.3 g | NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)OCOC | C19H25NO3
reactant | hydroxylamine methanol | 1M, 2.85 ml | NO.CO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 7-(1-Amino-2-naphthyl)heptanohydroxamic acid | 0.116 g | NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)NO | C17H22N2O2
